US07244776B2
Preparation 1 of WO 96/262,196 described the reaction of sodium benzenesulfinate (43 g, 0.26 mol) and 4-fluoroaceto phenone (30 g, 0.22 mol) at 130° C. in dimethyl sulfoxide (200 mL) for 48 hours. The mixture is then poured into 1000 mL of water. The solid formed is colled and dried to give 50 g of 1-(4-phenylsulfonyl-phenyl)-ethanone. This solid is suspended in ethanol (350 mL), heated to 60° C. and treated as described in J. Med. Chem., 34, 3295 (1991) to give 4-phenylsulfonyl benzoic acid melting at 269–271° C. A suspension of 4-phenyl sulfonylbenzoic acid (15 g, 0.57 mol) in toluene (50 mL) is treated with thionyl chloride (25 mL). A few drops of N,N-dimethylformamide are added and the suspension is heated to 70° C. for three hours. The solution is concentrated to give the title intermediate compound which is used without further purification.

reactant | sodium benzenesulfinate | 0.26 mol, 43 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 4-fluoroaceto phenone | 0.22 mol, 30 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | water | 1000 mL | O | H2O
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | 1-(4-phenylsulfonyl-phenyl)-ethanone | 50 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C(C)=O | C14H12O3S
